data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
2525,2804,[CH3:18][NH:19][C:20](=[O:21])[C:22](=[NH+:23][C-:24]([C:25]#[N:26])[C:27](=[O:28])[O:29][CH3:30])[c:31]1[cH:32][cH:33][cH:34][cH:35][cH:36]1.[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([c:7]2[cH:8][cH:9][cH:10][cH:11][cH:12]2)[CH:13]2[CH:14]=[CH:15][CH:16]1[O:17]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([c:7]2[cH:8][cH:9][cH:10][cH:11][cH:12]2)[CH:13]2[CH:14]3[CH:15]([CH:16]1[O:17]2)[C:22]([C:20]([NH:19][CH3:18])=[O:21])([c:31]1[cH:32][cH:33][cH:34][cH:35][cH:36]1)[NH:23][C:24]3([C:25]#[N:26])[C:27](=[O:28])[O:29][CH3:30],water,298.15,19.795928246298764,-28.489347057704983
2916,3244,[CH2:1]=[CH2:2].[CH3:3][N-:4][N+:5]([CH3:6])=[C:7]([C:8]#[N:9])[C:10]#[N:11]>>[CH2:1]1[CH2:2][N:4]([CH3:3])[N:5]([CH3:6])[C:7]1([C:8]#[N:9])[C:10]#[N:11],water,298.15,23.968597536017324,-11.200863725619463
2610,2892,[CH3:11][O:12][C:13](=[O:14])[C:15]([c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1)=[N+:22]([CH3:23])[C-:24]([c:25]1[cH:26][cH:27][cH:28][cH:29][cH:30]1)[c:31]1[cH:32][cH:33][cH:34][cH:35][cH:36]1.[CH3:1][O:2][C:3]1=[C:4]([Cl:5])[CH:6]2[CH:7]=[CH:8][CH:9]1[O:10]2>>[CH3:1][O:2][C:3]12[C:4]([Cl:5])([CH:6]3[CH:7]=[CH:8][CH:9]1[O:10]3)[C:24]([c:25]1[cH:26][cH:27][cH:28][cH:29][cH:30]1)([c:31]1[cH:32][cH:33][cH:34][cH:35][cH:36]1)[N:22]([CH3:23])[C:15]2([C:13]([O:12][CH3:11])=[O:14])[c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1,water,298.15,42.32761721903263,-12.963811342652512
2891,3212,[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6]#[N:7])[C:8]#[C:9][C:10]([c:11]2[cH:12][cH:13][cH:14][cH:15][cH:16]2)([c:17]2[cH:18][cH:19][cH:20][cH:21][cH:22]2)[CH2:23][CH2:24][CH2:25][CH2:26]1.[CH3:27][NH:28][C:29](=[O:30])[C:31]([c:32]1[cH:33][cH:34][cH:35][cH:36][cH:37]1)=[N+:38]([CH3:39])[C-:40]([C:41](=[O:42])[O:43][CH3:44])[c:45]1[cH:46][cH:47][cH:48][cH:49][cH:50]1>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6]#[N:7])[C:8]2=[C:9]([C:10]([c:11]3[cH:12][cH:13][cH:14][cH:15][cH:16]3)([c:17]3[cH:18][cH:19][cH:20][cH:21][cH:22]3)[CH2:23][CH2:24][CH2:25][CH2:26]1)[C:31]([C:29]([NH:28][CH3:27])=[O:30])([c:32]1[cH:33][cH:34][cH:35][cH:36][cH:37]1)[N:38]([CH3:39])[C:40]2([C:41](=[O:42])[O:43][CH3:44])[c:45]1[cH:46][cH:47][cH:48][cH:49][cH:50]1,water,298.15,35.184624006289354,-27.325971289586835
2459,2727,[CH3:1][NH:2][C:3](=[O:4])[C:5]1([c:6]2[cH:7][cH:8][cH:9][cH:10][cH:11]2)[C:12]#[C:13][C:14]([C:15]#[N:16])([C:17]#[N:18])[CH2:19][CH2:20][CH2:21][CH2:22]1.[CH3:23][NH:24][C:25](=[O:26])[C-:27]([O+:28]=[C:29]([CH3:30])[C:31]#[N:32])[C:33]([CH3:34])=[O:35]>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1([c:6]2[cH:7][cH:8][cH:9][cH:10][cH:11]2)[C:12]2=[C:13]([C:14]([C:15]#[N:16])([C:17]#[N:18])[CH2:19][CH2:20][CH2:21][CH2:22]1)[C:27]([C:25]([NH:24][CH3:23])=[O:26])([C:33]([CH3:34])=[O:35])[O:28][C:29]2([CH3:30])[C:31]#[N:32],water,298.15,14.669142387188842,-60.22447658887308
3841,4395,[CH3:1]/[CH:2]=[CH:3]\[CH3:4].[CH3:5][NH:6][C:7](=[O:8])[C:9](=[NH+:10][C-:11]([C:12]#[N:13])[C:14]([CH3:15])=[O:16])[C:17](=[O:18])[O:19][CH3:20]>>[CH3:1][C@@H:2]1[C@H:3]([CH3:4])[C:11]([C:12]#[N:13])([C:14]([CH3:15])=[O:16])[NH:10][C:9]1([C:7]([NH:6][CH3:5])=[O:8])[C:17](=[O:18])[O:19][CH3:20],water,298.15,25.09037331375273,-17.038720089666207
2635,2922,[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[O:8][CH3:9])[C:10]#[C:11][C:12]([C:13]#[N:14])([C:15]([F:16])([F:17])[F:18])[CH2:19][CH2:20][CH2:21][CH2:22]1.[CH3:23][NH:24][C:25](=[O:26])[C:27]([CH3:28])=[O+:29][C-:30]([C:31]#[N:32])[C:33](=[O:34])[O:35][CH3:36]>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[O:8][CH3:9])[C:10]2=[C:11]([C:12]([C:13]#[N:14])([C:15]([F:16])([F:17])[F:18])[CH2:19][CH2:20][CH2:21][CH2:22]1)[C:27]([C:25]([NH:24][CH3:23])=[O:26])([CH3:28])[O:29][C:30]2([C:31]#[N:32])[C:33](=[O:34])[O:35][CH3:36],water,298.15,24.06565735095444,-48.62210149529727
1871,2075,[CH3:12][NH:13][C:14](=[O:15])[C:16]#[N+:17][C-:18]([c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1)[c:25]1[cH:26][cH:27][cH:28][cH:29][cH:30]1.[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([CH3:6])[CH:7]2[CH2:8][CH2:9][CH:10]1[CH2:11]2>>[CH3:1][C:2](=[O:3])[C:4]12[C:5]([CH3:6])([CH:7]3[CH2:8][CH2:9][CH:10]1[CH2:11]3)[C:18]([c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1)([c:25]1[cH:26][cH:27][cH:28][cH:29][cH:30]1)[N:17]=[C:16]2[C:14]([NH:13][CH3:12])=[O:15],water,298.15,28.22872859575268,-27.40226618503621
3960,4533,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][O:8][C:9](=[O:10])[C:11]([C:12]#[N:13])=[N+:14]([CH3:15])[C-:16]([C:17]#[N:18])[C:19]([CH3:20])=[O:21]>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[C:16]([C:17]#[N:18])([C:19]([CH3:20])=[O:21])[N:14]([CH3:15])[C:11]1([C:9]([O:8][CH3:7])=[O:10])[C:12]#[N:13],water,298.15,29.01656165268768,-10.812104049645466
816,885,[CH3:13][O:14][C:15](=[O:16])[c:17]1[nH+:18][c-:19]([CH3:20])[c:21](=[O:22])[o:23]1.[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([F:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]12[C:6]([F:7])([CH:8]3[CH:9]=[CH:10][CH:11]1[O:12]3)[C:19]1([CH3:20])[NH:18][C:17]2([C:15]([O:14][CH3:13])=[O:16])[O:23][C:21]1=[O:22],water,298.15,16.069185524361032,-15.658166036935668
